US06239155B1
2-Methoxyethyl 2-acetyl-3-(2-fluorophenyl)-2-propenoate
10 g (80 mmol) of 2-fluorobenzaldehyde are dissolved in 200 ml of isopropanol with 13 g (80 mmol) of 2-methoxyethyl acetoacetate. A freshly prepared solution of 1.0 ml of piperidine and 0.5 ml of glacial acetic acid in 10 ml of isopropanol is added to this solution and it is stirred overnight at 40° C. The mixture is concentrated, the residue is taken up in toluene, the solution is concentrated again and the residue is purified by filtration on 300 ml of silica gel (eluent: toluene/ethyl acetate 100:1-10:1) to give 15 g of the target compound as a yellow oil which is immediately reacted further.

reactant | 2-fluorobenzaldehyde | 80 mmol, 10 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | 2-methoxyethyl acetoacetate | 80 mmol, 13 g | C(CC(=O)C)(=O)OCCOC | C7H12O4
reactant | piperidine | 1.0 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 2-Methoxyethyl 2-acetyl-3-(2-fluorophenyl)-2-propenoate | 15 g | C(C)(=O)C(C(=O)OCCOC)=CC1=C(C=CC=C1)F | C14H15FO4
